US04603130
In the same manner as described in Reference Example 4, N-formylpiperazine (17 g) and 2-chloromethylbenzimidazole (9.0 g) are reacted, and the crude crystal thus obtained is recrystallized from ethyl acetate to give 2-(4-formyl-1-piperazinyl)methylbenzimidazole (10.3 g) as pale yellow flakes, m.p. 194.5°-197.5° C.

reactant | N-formylpiperazine | 17 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | 2-chloromethylbenzimidazole | 9.0 g | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
product | 2-(4-formyl-1-piperazinyl)methylbenzimidazole | 10.3 g | C(=O)N1CCN(CC1)CC=1NC2=C(N1)C=CC=C2 | C13H16N4O
